US08293746B2
Step 28.3: 1-(3-Chloro-4-nitro-phenyl)-4-ethyl-piperazine
N-Ethylpiperazine (4.3 mL, 34.3 mmol, 1.2 equiv) is added to a mixture of 2-chloro-4-fluoronitrobenzene (5 g, 28.6 mmol) and potassium carbonate (7.9 g, 57.1 mmol, 2 equiv) in DMF (50 mL). The reaction mixture is stirred at 100° C. for 6 h, allowed to cool to RT, diluted with H2O and extracted with EtOAc. The organic phase is washed with brine, dried (Na2SO4), filtered and concentrated. The residue is purified by trituration in diethyl ether to provide 5.6 g of the title compound as a yellow solid: ES-MS: 270.0 [MH]+; tR=2.90 min (system 1).

reactant | N-Ethylpiperazine | 34.3 mmol, 4.3 mL, 1.2 equiv | C(C)N1CCNCC1 | C6H14N2
reactant | 2-chloro-4-fluoronitrobenzene | 28.6 mmol, 5 g | ClC1=C(C=CC(=C1)F)[N+](=O)[O-] | C6H3ClFNO2
reactant | potassium carbonate | 57.1 mmol, 7.9 g, 2 equiv | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | H2O | O | H2O
product | 1-(3-Chloro-4-nitro-phenyl)-4-ethyl-piperazine | 5.6 g | ClC=1C=C(C=CC1[N+](=O)[O-])N1CCN(CC1)CC | C12H16ClN3O2
